data/specific_train_final.csv
"C(C(O[O:20])Br)Br.[N:10]=O>>C(C(O[O:20][N:10]=O)Br)Br 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(CO[O:20])OC.[N+](=O)([O-])[O:10]>>CC(C)(CO[O:20][O:10][N+](=O)[O-])OC 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C/[C:21]([CH:20][O:10][H])=[CH:22]/[CH2:23][O:30][O:31][H:19].[O:40][O:41]>>C/[C:21]([CH:20]([O:40][O:41])[O:10][H])=[CH:22]/[CH2:23][O:30][O:31][H:19] 20-20,40;40-20,40",Room Temperature,Termination,recombine
"CC(C)C12C=CC(C(C1O)OO2)[O:21][O:20][O].[N+](=O)[O-]>>CC(C)C12C=CC(C(C1O)OO2)[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1(C2CC1C(C(C2)O[O:20])(C)O)C.[N+](=O)([O-])[O:10]>>CC1(C2CC1C(C(C2)O[O:20][O:10][N+](=O)[O-])(C)O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(=O)C([C:10](C)C1C(O1)(C)C=O)O.[O:20][O]>>CCC(=O)C([C:10](C)(C1C(O1)(C)C=O)[O:20][O])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH:21](CCC)OCCO.[OH:10]>>[H:20][OH:10].CCC[CH:21]OCCO 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH:20](=[CH:21]\Cl)\Cl.[OH:10]>>[CH:21]([CH:20]([OH:10])Cl)Cl 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(CO[O:20])C(C)O.[N+](=O)([O-])[O:10]>>CC(CO[O:20][O:10][N+](=O)[O-])C(C)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21](=O)C1=CC=CC=C1.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].C1=CC=C(C=C1)[C:21]=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C(C([O:20][O:21]N=O)(Cl)Cl)O>>C(C([O:20])(Cl)Cl)O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CCC(C1=CC=CC=C1)O[O:10]>>[H:20][O:10]OC(CC)C1=CC=CC=C1.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)(CO)O[O:20].[N:10]=O>>CC(C)(CO)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:4][CH2:3][CH:2]([CH3:1])[CH2:5][CH2:6][O:7][O:8].[N:9]=[O:10]>>[CH3:4][CH2:3][CH:2]([CH3:1])[CH2:5][CH2:6][O:7][O:8][N:9]=[O:10] 9-8,9; 8-8,9",Room Temperature,Termination,recombine
"[H:2][O:1].[H:14][O:13][O:12][CH2:11][CH:10]=[C:4]([CH3:3])[CH2:5][O:6][N+:7](=[O:9])[O-:8]>>[H:2][O:1][CH:10]([CH2:11][O:12][O:13][H:14])[C:4]([CH3:3])[CH2:5][O:6][N+:7](=[O:9])[O-:8] 1-1,10; 4,10-1,10; 4,10-4",Room Temperature,Propagation,addition
"[CH2:10]Cl.[O:20][O]>>[CH2:10]([O:20][O])Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C)(OC(=O)C)[O:20][O:21]N=O>>CCC(C)([O:20])OC(=O)C.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:8][C:7]([CH3:9])([CH2:6][O:5][O:4][O:3][N+:2](=[O:1])[O-:11])[OH:10]>>[CH3:8][C:7]([CH3:9])([CH2:6][O:5][O:4][O:3])[OH:10].[N+:2](=[O:1])[O-:11] 3,2-3; 3,2-2",Room Temperature,Initiation,homolyze
"c1ccccc1C(CO[N+]([O-])=O)OO[O:20][N+:10]([O-])=O>>c1ccccc1C(CO[N+]([O-])=O)OO[O:20].[N+:10]([O-])=O 10,20-10;10,20-20",Room Temperature,Initiation,homolyze
CC(COC(=O)C)[O:20].[N:10](=O)[O:21]>>CC(COC(=O)C)[O:20].[N+:10](=O)[O-:21] 10-21,Room Temperature,Propagation,ha resonance
[CH3:1][C:2]12[CH:5]=[CH:6][C:7]([CH:10]([CH:11]1[OH:12])[O:4][O:3]2)([CH3:8])[O:9].[N:14](=[O:15])[O:13]>>[CH3:1][C:2]12[CH:5]=[CH:6][C:7]([CH:10]([CH:11]1[OH:12])[O:4][O:3]2)([CH3:8])[O:9].[N+:14](=[O:15])[O-:13] 14-13,Room Temperature,Propagation,ha resonance
"CC(CO[N+](=O)[O-])O[O:20].[N+](=O)([O-])[O:10]>>CC(CO[N+](=O)[O-])O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(CO[N+](=O)[O-])[O:20][O:21]N=O>>CCC(CO[N+](=O)[O-])[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1=CC2(C(C(C1OO[O:20][N+:21](=O)[O-])(OO2)C)O)C>>CC1=CC2(C(C(C1OO[O:20])(OO2)C)O)C.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
CCCCOC(C(C)O)[O].O=[N:10][O:20]>>O=[N+:10][O-:20].CCCCOC(C(C)O)[O] 10-20,Room Temperature,Propagation,ha resonance
"[H:20][O:21][O].CC(OC(=O)C)O[O:10]>>[H:20][O:10]OC(C)OC(=O)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:14][O:13][O:12].[CH3:1][CH2:2][CH2:3][CH:4]([O:7][CH2:8][CH:9]([CH3:11])[OH:10])[O:5][O:6]>>[H:14][O:13][O:12][O:6][O:5][CH:4]([CH2:3][CH2:2][CH3:1])[O:7][CH2:8][CH:9]([CH3:11])[OH:10] 6-6,12; 12-6,12",Room Temperature,Termination,recombine
"[O:1]C/C=C(C)/CO.[O-][N+:2]=O>>[O-][N+:2]([O:1]C/C=C(C)/CO)=O 1-1,2;2-2,1",Room Temperature,Termination,recombine
"[CH3:4][C:3](=[CH:2][OH:1])[CH:5]([CH2:7][O:8][OH:9])[O:6].[N+:11](=[O:12])[O-:10]>>[CH3:4][C:3](=[CH:2][OH:1])[CH:5]([CH2:7][O:8][OH:9])[O:6][N+:11](=[O:12])[O-:10] 11-11,6; 6-11,6",Room Temperature,Termination,recombine
"[CH:21]1=[CH:20]C(C(C=C1)O[O:10])O>>C1=CC2C([CH:20]([CH:21]1)[O:10]O2)O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][O:21][O].CC(C(C=O)O[O:10])O[N+](=O)[O-]>>[H:20][O:10]OC(C=O)C(C)O[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
